US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[2-(hydroxycarbamoyl)-5-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (45 mg) (0.074 mmol) and 31 mg (0.096 mmol) of 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride are dissolved in 3 ml of absolute dimethylacetamide. After stirring at room temperature for 24 hours the reddish solution is concentrated in a high vacuum. The residue is suspended in 6 ml of water and the product is filtered off under suction. After washing with water and diethyl ether and subsequently drying in a high vacuum there are obtained 50 mg of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[2-(hydroxycarbamoyl)-5-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia- 1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[2-(hydroxycarbamoyl)-5-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.074 mmol, 45 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(NO)=O)CO)=O | C20H17N9O8S3
reactant | 1-[2-(aminooxy)-2-methylpropionyl]-2-(3,4-dihydroxybenzoyl)hydrazine hydrochloride | 0.096 mmol, 31 mg | Cl.NOC(C(=O)NNC(C1=CC(=C(C=C1)O)O)=O)(C)C
solvent | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[1-[3-(3,4-dihydroxybenzoyl)carbazoyl]-1-methylethoxy]imino]acetamido]-3-[[[2-(hydroxycarbamoyl)-5-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia- 1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 50 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(NO)=O)CO)=N/OC(C)(C)C(NNC(C2=CC(=C(C=C2)O)O)=O)=O | C31H30N12O12S3
